US07786115B2
To a slurry of NaH (680 mg [60% dispersion in oil]) in THF (250 ml) at 0° C. was added methyl 3-[(2-bromo-5-methoxybenzoyl)amino]-4-methylbenzoate (5.36 g) portionwise. The reaction was stirred for 30 minutes at room temperature when allyl bromide (1.6 ml) was added dropwise and the solution was stirred for a further 20 hours at room temperature. The reaction mixture was quenched with water and then concentrated. The residue was dissolved in ethyl acetate and washed with water (×2), brine, dried (magnesium sulfate) and concentrated. The residue was purified by column chromatography on a silica column eluting using a gradient of iso-hexane to 50% ethyl acetate/iso-hexane to yield methyl 3-[allyl(2-bromo-5-methoxybenzoyl)amino]-4-methylbenzoate as a colourless oil (4.88 g); Mass Spectrum: M+H+ 417.

reactant | NaH | 680 mg | [H-].[Na+]
reactant | methyl 3-[(2-bromo-5-methoxybenzoyl)amino]-4-methylbenzoate | 5.36 g | BrC1=C(C(=O)NC=2C=C(C(=O)OC)C=CC2C)C=C(C=C1)OC | C17H16BrNO4
reactant | allyl bromide | 1.6 ml | C(C=C)Br | C3H5Br
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | methyl 3-[allyl(2-bromo-5-methoxybenzoyl)amino]-4-methylbenzoate | 4.88 g | C(C=C)N(C=1C=C(C(=O)OC)C=CC1C)C(C1=C(C=CC(=C1)OC)Br)=O | C20H20BrNO4
